US08119692B2
N-hydroxy-4-methoxy-4-o-tolylbutanamide (Compound 167540)
To a solution prepared by dissolving 4-methoxy-4-o-tolyl-butyric acid methyl ester (230.0 mg, 1.03 mmol) into 3 mL of a mixture of THF, methanol, and 50 wt % NH2OH in H2O (2:2:1) was added KCN (6.0 mg, 0.03 mmol). The reaction mixture was stirred for 3 days at room temperature and then quenched by the addition of 10 mL of 1M aqueous HCl. The mixture was extracted with ethyl acetate (3×20 mL) and the combined organic layers washed with brine (2×10 mL). The product was isolated by flash column chromatography eluting with 0% to 10% methanol/DCM to afford 184 mg of the title compound as a yellow oil.

reactant | 4-methoxy-4-o-tolyl-butyric acid methyl ester | 1.03 mmol, 230.0 mg | COC(CCC(C1=C(C=CC=C1)C)OC)=O | C13H18O3
reactant | THF | C1CCOC1 | C4H8O
reactant | NH2OH | NO | H3NO
reactant | KCN | 0.03 mmol, 6.0 mg | [C-]#N.[K+]
solvent | H2O | O | H2O
solvent | methanol | CO | CH4O
product | N-hydroxy-4-methoxy-4-o-tolylbutanamide | 184 mg | ONC(CCC(C1=C(C=CC=C1)C)OC)=O | C12H17NO3
